US08912180B2
To a mixture of 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole (1 g) and N,N-dimethylacetamide (10 mL) were added tert-butyl 4-(hydroxymethyl)piperidine-1-carbamate (1 g) and cesium carbonate (3 g), and the mixture was stirred at 120° C. for 3 hours. The reaction mixture was poured into water, followed by extraction with hexane-ethyl acetate (1:1). The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by silica gel column chromatography (hexane:ethyl acetate) to obtain tert-butyl 4-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfanyl)pyrimidin-4-yl}oxy)methyl]piperidine-1-carbamate (680 mg) as a white amorphous substance.

reactant | 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole | 1 g | ClC1=CC(=NC(=N1)SC)N1C(=NC2=C1C=CC=C2)C(F)F | C13H9ClF2N4S
reactant | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
reactant | tert-butyl 4-(hydroxymethyl)piperidine-1-carbamate | 1 g | OCC1CCN(CC1)NC(=O)OC(C)(C)C | C11H22N2O3
reactant | cesium carbonate | 3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
product | tert-butyl 4-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfanyl)pyrimidin-4-yl}oxy)methyl]piperidine-1-carbamate | 680 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)SC)OCC1CCN(CC1)NC(=O)OC(C)(C)C)C=CC=C2)F | C24H30F2N6O3S
